* source FRONTEND-DESIGN-CANDIDATES
V_V1         12V 0 12V
V_V2         0 -12V 12
V_V4         N03290 0  AC 2.5V
+SIN 0 2.5V 480k 0 0 0
X_U1         N03290 N04548 12V -12V N04690 N04348 LT1210/LT
C_C1         0 N04348  10n  TC=0,0 
R_R1         N04548 N04690  500 TC=0,0 
X_TX1    N04690 0 N09242 0 SCHEMATIC1_TX1 
C_C2         N09242 0  1.84n  TC=0,0 
.PARAM  lval=1mh

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 0.95
L1_TX1         1 2 1.79uH
L2_TX1         3 4 179uH
.ends SCHEMATIC1_TX1
